US07598257B2
To a solution of diethyl cyanomethylphosphonate (100 mg, 0.0008 mol) in THF (2 mL, 0.02 mol) cooled at 0° C. and 1.0 M potassium tert-butoxide in THF (0.8 mL) was added dropwise. The bath was removed and the reaction was warmed to room temperature for 30 minutes. The reaction was cooled to 0° C. and a solution of 5-(diethoxymethyl)thiophene-3-carbaldehyde (170 mg, 0.00079 mol) in THF (2 mL, 0.02 mol) was added drop wise. The reaction was stirred overnight at room temperature. The reaction was partitioned between water and ethyl acetate. The combined extracts were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel eluting (ethyl acetate:hexane, 1:5) to give (2E)-3-[5-(diethoxymethyl)-3-thienyl]acrylonitrile as an oil (160 mg, 84.9%). 1H NMR (300 MHz, CDCl3): δ 7.4-7.0 (m, 3H), 5.65 (m 1H), 4.2 (m, 1H), 3.65 (m, 4H), 1.25 (m, 6H).

reactant | diethyl cyanomethylphosphonate | 0.0008 mol, 100 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | 5-(diethoxymethyl)thiophene-3-carbaldehyde | 0.00079 mol, 170 mg | C(C)OC(C1=CC(=CS1)C=O)OCC | C10H14O3S
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
solvent | THF | 0.02 mol, 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.02 mol, 2 mL | C1CCOC1 | C4H8O
product | (2E)-3-[5-(diethoxymethyl)-3-thienyl]acrylonitrile | 160 mg, 84.9% | C(C)OC(C1=CC(=CS1)/C=C/C#N)OCC | C12H15NO2S
